US08809267B2
A solution of 2-allyl-1-tert-butoxycarbonylamino-cyclopropanecarboxylic acid methyl ester (0.27 mmol) in EtOAc (3 mL) was treated with 5% Rh/Al2O3 (0.014 mmol Rh). The atmosphere over the reaction was replaced with a H2 balloon and the reaction allowed to stir vigorously for 45 min. The H2 was removed and the catalyst removed by filtration through a pad of celite. Volatiles were removed in vacuo to afford 1-tert-butoxycarbonylamino-2-propyl-cyclopropanecarboxylic acid methyl ester as a colorless film that was used without further purification (0.069 g, quant). LCMS found 257.8 [M+H]+.

reactant | 2-allyl-1-tert-butoxycarbonylamino-cyclopropanecarboxylic acid methyl ester | 0.27 mmol | COC(=O)C1(C(C1)CC=C)NC(=O)OC(C)(C)C | C13H21NO4
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
catalyst | Rh/Al2O3 | 0.014 mmol | [Rh] | Rh
product | 1-tert-butoxycarbonylamino-2-propyl-cyclopropanecarboxylic acid methyl ester | COC(=O)C1(C(C1)CCC)NC(=O)OC(C)(C)C | C13H23NO4
